US07319103B2
8-[4-(3-Chloro-propoxy)-phenyl]-6,7-dihydro-5H-1,4,8a-triaza-s-indacene
Using the method described for the preparation of 10-[4-(3-chloro-propoxy)-phenyl]-6,7,8,9-tetrahydro-5H-1,4,10a-triaza-cyclohepta[f]indene, the reaction of 4-(6,7-dihydro-5H-1,4,8a-triaza-s-indacen-8-yl)-phenol and 1-bromo-3-chloropropane provided the title compound.

reactant | 10-[4-(3-chloro-propoxy)-phenyl]-6,7,8,9-tetrahydro-5H-1,4,10a-triaza-cyclohepta[f]indene | ClCCCOC1=CC=C(C=C1)C=1N2N=CC=C2N=C2C1CCCCC2 | C20H22ClN3O
reactant | 4-(6,7-dihydro-5H-1,4,8a-triaza-s-indacen-8-yl)-phenol | N1=CC=C2N=C3CCCC3=C(N12)C1=CC=C(C=C1)O | C15H13N3O
reactant | 1-bromo-3-chloropropane | BrCCCCl | C3H6BrCl
product | 8-[4-(3-Chloro-propoxy)-phenyl]-6,7-dihydro-5H-1,4,8a-triaza-s-indacene | ClCCCOC1=CC=C(C=C1)C1=C2CCCC2=NC2=CC=NN12 | C18H18ClN3O
